US05430042
Preparation of 5-acetyl-6-methyl-2-[[(4cyclopropylmethoxy-3-methoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole
5-Acetyl-6-methyl-2-[[(4-cyclopropylmethoxy-3-methoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole (40 mg, 0.10 mmol) was dissolved in methylene chloride (10 ml) and sodium hydrogen carbonate (3 ml,1M). The mixture was stirred at ambient temperature and MCPBA (25 mg, 0.10 mmol, 70%) dissolved in methylene chloride (5 ml) was added portionwise. After 10 min sodium thiosulphate (30 mg) was added whereupon the phases were separated. The organic phase was dried over sodium sulphate, filtered and concentrated under reduced pressure. The residue was chromatographed on silica (CH2Cl2 /MeOH/NH3, 97.5:2.5:sat.) Yield 30 mg (73%) of the title compound.

reactant | 5-Acetyl-6-methyl-2-[[(4-cyclopropylmethoxy-3-methoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | 0.10 mmol, 40 mg | C(C)(=O)C1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OCC2CC2)C=C1C | C21H23N3O3S
reactant | MCPBA | 0.10 mmol, 25 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium thiosulphate | 30 mg | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydrogen carbonate | 1M, 3 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-acetyl-6-methyl-2-[[(4cyclopropylmethoxy-3-methoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole | C(C)(=O)C1=CC2=C(NC(=N2)S(=O)CC2=NC=CC(=C2OC)OCC2CC2)C=C1C | C21H23N3O4S
